US06017923
Scheme E, step d: 5-(p-Methoxybenzyloxy)-3-benzoyloxymethylpent-1,2-diene
Combine 5-(p-methoxybenzyloxy)-3-hydroxymethylpent-1,2-diene (25.0 mmol) and benzoyl chloride (25.0 mmol) in pyridine (25 mL) and stir for 16 hours. Partition the reaction mixture between diethyl ether and water, wash the organic layer 3X with saturated sodium bicarbonate and 1X with water, dry over MgSO4 and concentrate in vacuo. Chromatograph on silica gel to give the title compound.

reactant | 5-(p-methoxybenzyloxy)-3-hydroxymethylpent-1,2-diene | 25.0 mmol | COC1=CC=C(COCCC(=C=C)CO)C=C1 | C14H18O3
reactant | benzoyl chloride | 25.0 mmol | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 25 mL | N1=CC=CC=C1 | C5H5N
product | 5-(p-Methoxybenzyloxy)-3-benzoyloxymethylpent-1,2-diene | COC1=CC=C(COCCC(=C=C)COC(C2=CC=CC=C2)=O)C=C1 | C21H22O4
